US07989497B2
Step 3: 6-Chloro-3-(2-ethoxy-3,4-dioxo-cyclobut-1-enylamino)-2-hydroxy-N-methoxy-N-ethyl-benzenesulfonamide
A solution of 3,4-diethoxy-3-cyclobutene-1,2-dione (0.30 g, 1.76 mmol) in ethanol (5 ml) was treated with TEA (250 μl, 1.80 mmol) and the reaction mixture was heated to 45° C. A solution of 3-amino-6-chloro-2-hydroxy-N-methoxy-N-ethyl-benzenesulfonamide (0.58 g, 2.07 mmol) in EtOH (5 ml) was added dropwise to the reaction mixture. The reaction mixture was stirred at 45° C. for 1 hour and then concentrated in vacuo. The residue was purified using flash chromatography (50% EtOAc in iso-hexane) to furnish a solid [M+H]+ 405.2.

reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | 1.76 mmol, 0.30 g | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
reactant | 3-amino-6-chloro-2-hydroxy-N-methoxy-N-ethyl-benzenesulfonamide | 2.07 mmol, 0.58 g | NC=1C(=C(C(=CC1)Cl)S(=O)(=O)N(CC)OC)O | C9H13ClN2O4S
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | EtOH | 5 ml | CCO | C2H6O
product | 6-Chloro-3-(2-ethoxy-3,4-dioxo-cyclobut-1-enylamino)-2-hydroxy-N-methoxy-N-ethyl-benzenesulfonamide | ClC1=CC=C(C(=C1S(=O)(=O)N(CC)OC)O)NC1=C(C(C1=O)=O)OCC | C15H17ClN2O7S
